US04234588
A mixture of 6-methylpyridine-3-carboxaldehyde (51.57 g), malonic acid (44.30 g), piperidine (6 ml) and pyridine (300 ml) was stirred at 100° for 3 hours and was allowed to cool. The mixture was evaporated to dryness, water was added to the residue and the solid was filtered off and recrystallised from ethanol-acetic acid to give 3-(6-methyl-3-pyridyl)acrylic acid (41.25 g) m.p. 213.5°-215.5°.

reactant | 6-methylpyridine-3-carboxaldehyde | 51.57 g | CC1=CC=C(C=N1)C=O | C7H7NO
reactant | malonic acid | 44.30 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 6 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
product | 3-(6-methyl-3-pyridyl)acrylic acid | 41.25 g | CC1=CC=C(C=N1)C=CC(=O)O | C9H9NO2
